US06080754
6-Benzyloxy-2-(4-benzyloxyphenyl)-1-ehtylindolizine, prepared in example 23, step 5, (2.17 g, 5.0 mmol) was dissolved in 100 ml of dry toluene under a nitrogen atmosphere, and the mixture was stirred in an ice bath, while 3-butyn-2-one (0.34 ml, 5.75 mmol) was added dropwise. The cooling source was removed and stirring was continued for twenty hours. 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (0.57 g, 0.25 mmol) was added in portions and stirring was continued for 11/2 hour. The solvent was evaporated and the crude product was purified by column chromatography over silica gel 60, using 20% of ethyl acetate in petroleum ether as the eluent. Fractions containing the product were colleted and the solvent was evaporated. The crude product was and crystallized from diethyl ether to afford 0.955 g (38%) of 4-acetyl-5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethylpyrrolo[2,1,5-cd]indolizine as crystals. MS(SP): m/z 499 (M+). 1H-NMR (CDCl3, 400 MHz) δ: 1.44 (t, 3H); 2.79 (s, 3H); 3.15 (q, 2H); 5.15 (s, 2H); 5.44 (s, 2H); 7.15 (d, 2H); 7.32-7.46 (m, 7H); 7.50 (d, 2H); 7.60 (d, 2H); 7.67-7.74 (m, 3H); 7.94 (s, 1H).

reactant | 6-Benzyloxy-2-(4-benzyloxyphenyl)-1-ehtylindolizine | C(C1=CC=CC=C1)OC1=CN2C=C(C(=C2C=C1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H27NO2
reactant | 3-butyn-2-one | 5.75 mmol, 0.34 ml | CC(C#C)=O | C4H4O
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 0.25 mmol, 0.57 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-acetyl-5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethylpyrrolo[2,1,5-cd]indolizine | 0.955 g, 38% | C(C)(=O)C=1C=C2C(=C(C3=CC=C(C1N23)OCC2=CC=CC=C2)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H29NO3
